US20010018405A1
Example P-5: 6-Chloro-2-propoxy-3-propylthieno[2.3-d]pyrimidine-4-one
In a sulfonation flask, 3.5 g of 5-chloro-2-(1,1 -dipropoxymethyleneamino)thiophene-3-carboxylic acid propylamide is dissolved in 30 ml of absolute DMF and 1.93 g powdered potassium carbonate is added in one portion at room temperature. After stirring for 4 hours at ca 75° C., water is added to the precooled reaction mixture and the water phase extracted three times with AcOEt. Then work up is continued as described in example P-4 (method 2). Yield: 2.4 g of 6-chloro-2-propoxy-3-propylthieno[2.3-d]pyrimidin-4-one in the form of slightly brown crystalls, m.p.: 63-67°

reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
reactant | 5-chloro-2-(1,1 -dipropoxymethyleneamino)thiophene-3-carboxylic acid propylamide | 3.5 g | C(CC)NC(=O)C1=C(SC(=C1)Cl)N=C(OCCC)OCCC | C15H23ClN2O3S
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 6-Chloro-2-propoxy-3-propylthieno[2.3-d]pyrimidine-4-one | ClC1=CC2=C(N=C(N(C2=O)CCC)OCCC)S1 | C12H15ClN2O2S
